US06747023B1
2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride
A saturated solution of hydrochloride in ethanol (25 ml) was added to 1,5-bis(t-butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine (300 mg) at room temperature, followed by stirring for 1 hour. The reaction mixture was concentrated and water was added to the concentrate. The resulting mixture was concentrated under reduced pressure. To the residue, a saturated solution of hydrochloride in methanol (25 ml) was added at room temperature, followed by stirring for 1 hour. After concentration of the reaction mixture, water was added and the resulting mixture was concentrated under reduced pressure, whereby the title compound (200 mg) was obtained as a white solid.

reactant | hydrochloride | Cl | ClH
reactant | 1,5-bis(t-butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 300 mg | C(C)(C)(C)OC(=O)N1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | C32H39ClN4O7S
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=2CNCCC2N1 | InChI=1S/C22H23ClN4O3S.ClH/c23-18-3-1-16-12-19(4-2-15(16)11-18)31(29,30)27-9-7-26(8-10-27)22(28)21-13-17-14-24-6-5-20(17)25-21;/h1-4,11-13,24-25H,5-10,14H2;1H
